US09056852B2
To a mixture of 2-chloro-N-(1-(4-chlorophenyl)-2-methylpropan-2-yl)acetamide (259 mg, 1.00 mmol) in dioxane (5.0 mL) was added conc. hydrochloric acid (20 mL). After stirring at 105° C. for 16 hours, the reaction mixture was poured onto ice and basified by the addition of saturated aq. sodium bicarbonate to pH>8. The mixture was extracted with ethyl acetate and the combined organic fractions were washed with water, dried over sodium sulfate and concentrated under vacuum. The crude product was then purified by reverse phase flash chromatography (0 to 25% acetonitrile in aq. 0.01% formic acid) to give 1-(4-chlorophenyl)-2-methylpropan-2-amine (70 mg, 38% yield) as a white solid.

reactant | 2-chloro-N-(1-(4-chlorophenyl)-2-methylpropan-2-yl)acetamide | 1.00 mmol, 259 mg | ClCC(=O)NC(CC1=CC=C(C=C1)Cl)(C)C | C12H15Cl2NO
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 1-(4-chlorophenyl)-2-methylpropan-2-amine | 70 mg, 38% yield | ClC1=CC=C(C=C1)CC(C)(N)C | C10H14ClN
